US04024183
A solution of freshly distilled p-chlorophenyl isocyanate (1.38 g.) in 10 ml. chloroform is added at room temperature in one portion to a solution of 1-isobutyl-3-(m-aminophenyl)thiourea (2.0 g.) in chloroform (30 ml.). The product precipitates rapidly and is filtered off after several hours. The filter cake is washed with chloroform and dried to give 1-(3-p-chlorophenylureido)-3-(3-isobutylthioureido)-benzene, m.p. 195°-196° C.

reactant | p-chlorophenyl isocyanate | 1.38 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 1-isobutyl-3-(m-aminophenyl)thiourea | 2.0 g | C(C(C)C)NC(=S)NC1=CC(=CC=C1)N | C11H17N3S
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-p-chlorophenylureido)-3-(3-isobutylthioureido)-benzene | ClC1=CC=C(C=C1)NC(NC1=CC(=CC=C1)NC(=S)NCC(C)C)=O | C18H21ClN4OS
